**********
*SYM=POWMOSN
.SUBCKT DE150-101N09A  10 20 30
*     TERMINALS:  D  G  S
*  100 Volt  9 Amp  .16 ohm  N-Channel Power MOSFET  10-30-2001
M1   1 2  3  3  DMOS  L=1U W=1U
RON  5 6 1.5
DON  6 2  D1
ROF  5 7 .2
DOF  2 7  D1
D1CRS 2 8 D2
D2CRS 1 8 D2
CGS  2 3  .6N
RD   4 1  .16
DCOS 3 1 D3
RDS  1  3  5.0MEG
LS  3 30 .1N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=9.0)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=1100P BV=500 M=.5 VJ=.6 TT=1N RS=10M)
.MODEL D3 D (IS=.5F CJO=300P BV=500 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
**********
*SYM=POWMOSN
.SUBCKT DE150-201N09A  10 20 30
*     TERMINALS:  D  G  S
*  200 Volt  9 Amp  .4 ohm  N-Channel Power MOSFET  10-30-2001
M1   1 2  3  3  DMOS  L=1U W=1U
RON  5 6 1.5
DON  6 2  D1
ROF  5 7 .2
DOF  2 7  D1
D1CRS 2 8 D2
D2CRS 1 8 D2
CGS  2 3  .6N
RD   4 1  .4
DCOS 3 1 D3
RDS  1  3  5.0MEG
LS  3 30 .1N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=2.7)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=1100P BV=500 M=.5 VJ=.6 TT=1N RS=10M) 
.MODEL D3 D (IS=.5F CJO=300P BV=500 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
**********
*SYM=POWMOSN
.SUBCKT DE150-501N04A  10 20 30
*     TERMINALS:  D  G  S
*  500 Volt  4.5 Amp  1.5 ohm  N-Channel Power MOSFET  10-30-2001
M1   1 2  3  3  DMOS  L=1U W=1U
RON  5 6  9.5
DON  6 2  D1
ROF  5 7  3.5
DOF  2 7  D1
D1CRS 2 8 D2
D2CRS 1 8 D2
CGS  2 3  .6N
RD   4 1  1.5
DCOS 3 1 D3
RDS  1  3  5.0MEG
LS  3 30 .1N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=6.0)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=175P BV=500 M=.5 VJ=.6 TT=1N RS=10M) 
.MODEL D3 D (IS=.5F CJO=250P BV=500 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
**********
*SYM=POWMOSN
.SUBCKT DE150-102N02A   10 20 30
*     TERMINALS:  D  G  S
*  1000 Volt  1.5 Amp  11.0 ohm  N-Channel Power MOSFET  10-30-2001
M1   1  2  3  3  DMOS L=1U W=1U
RON  5 6  4.0
DON  6 2  D1
ROF  5 7  2.0
DOF  2 7  D1
D1CRS 2 8  D2
D2CRS 1 8 D2
CGS  2 3  500Pf
RD   4 1  11
DCOS 3 1  D3
RDS  1 3  5.0MEG
LS  3 30 .5N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3 KP=.3)
.MODEL D1 D (IS=.5F CJO=10P BV=100 M=.5 VJ=.2 TT=1N)
.MODEL D2 D (IS=.5F CJO=100P BV=1000 M=.6 VJ=.6 TT=1N RS=10M) 
.MODEL D3 D (IS=.5F CJO=150P BV=1000 M=.35 VJ=.6 TT=400N RS=10M)
.ENDS
**********
*SYM=POWMOSN
.SUBCKT DE275-201N25A  10 20 30
*     TERMINALS:  D  G  S
*  200 Volt  25 Amp  .08 ohm  N-Channel Power MOSFET  07-29-1993
M1   1 2  3  3  DMOS  L=1U W=1U
RON  5 6 1.5
DON  6 2  D1
ROF  5 7 .2
DOF  2 7  D1
D1CRS 2 8 D2
D2CRS 1 8 D2
CGS  2 3  2.5N
RD   4 1  .08
DCOS 3 1 D3
RDS  1  3  5.0MEG
LS  3 30 .1N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=25.0)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=1100P BV=500 M=.5 VJ=.6 TT=1N RS=10M) 
.MODEL D3 D (IS=.5F CJO=300P BV=500 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
************
*SYM=POWMOSN
.SUBCKT DE275-501N16A  10 20 30
* TERMINALS:  D  G  S
* 500 Volt  16 Amp  .5 ohm  N-Channel Power MOSFET
* REVA 6-15-00
M1   1 2  3  3  DMOS  L=1U W=1U
RON  5 6 .2
DON  6 2  D1
ROF  5 7 .2
DOF  2 7  D1
D1CRS 2 8 D2
D2CRS 1 8 D2
CGS  2 3  2.0N
RD   4 1  .5
DCOS 3 1 D3
RDS  1  3  5.0MEG
LS  3 30 .5N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=5.8)
.MODEL D1 D (IS=.5F CJO=10P BV=100 M=.5 VJ=.7 TT=1N RS=10M)
.MODEL D2 D (IS=.5F CJO=450P BV=500 M=.4 VJ=.6 TT=10N RS=10M) 
.MODEL D3 D (IS=.5F CJO=900P BV=500 M=.3 VJ=.3 TT=400N RS=10M)
.ENDS
*SYM=POWMOSN
.SUBCKT DE275-102N06A   10 20 30
*     TERMINALS:  D  G  S
*  1000 Volt  6 Amp  2.0 Ohm  N-Channel Power MOSFET
M1   1  2  3  3  DMOS L=1U W=1U
RON  5 6 .5
DON  6 2  D1
ROF  5 7  1.0
DOF  2 7  D1
D1CRS 2 8  D2
D2CRS 1 8 D2
CGS  2 3  1.9N
RD   4 1  1.7
DCOS 3 1  D3
RDS  1 3  5.0MEG
LS  3 30 .5N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=4 KP=2.3)
.MODEL D1 D (IS=.5F CJO=10P BV=100 M=.5 VJ=.2 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.6 VJ=.6 TT=1N RS=10M) 
.MODEL D3 D (IS=.5F CJO=400P BV=1000 M=.35 VJ=.6 TT=400N RS=10M)
.ENDS
**********
*SYM=POWMOSN
.SUBCKT DE275X2-102N06A   10 20 30
*     TERMINALS:  D  G  S
*  1000 Volt  6 Amp  2.0 Ohm  N-Channel Power MOSFET
M1   1  2  3  3  DMOS L=1U W=1U
RON  5 6 .5
DON  6 2  D1
ROF  5 7  1.0
DOF  2 7  D1
D1CRS 2 8  D2
D2CRS 1 8 D2
CGS  2 3  1.9N
RD   4 1  1.7
DCOS 3 1  D3
RDS  1 3  5.0MEG
LS  3 30 .5N
LD  10 4  1N
LG  20 5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=4 KP=2.3)
.MODEL D1 D (IS=.5F CJO=10P BV=100 M=.5 VJ=.2 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.6 VJ=.6 TT=1N RS=10M) 
.MODEL D3 D (IS=.5F CJO=400P BV=1000 M=.35 VJ=.6 TT=400N RS=10M)
.ENDS
*********
.SUBCKT DE375-501N21A   10 20 30
*  TERMINALS:  D  G  S
*  500 Volt  21 Amp  0.27 ohm  N-Channel Power MOSFET
*  REV.A  01-09-02
M1   1  2  3  3  DMOS L=1U W=1U
RON   5  6  0.3
DON   6  2  D1
ROF   5  7 .1
DOF   2  7  D1
D1CRS 2  8  D2
D2CRS 1  8  D2
CGS   2  3  2.6N
RD    4  1  0.3
DCOS  3  1  D3
RDS   1  3  5.0MEG
LS    3  30 .5N
LD   10  4  1N
LG   20  5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=3.8)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.4 VJ=.6 TT=400N RS=10M) 
.MODEL D3 D (IS=.5F CJO=900P BV=1000 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
*******
.SUBCKT DE375-102N10A   10 20 30
*  TERMINALS:  D  G  S
*  1000 Volt  10 Amp  1.2 ohm  N-Channel Power MOSFET
*  REV.A  05-23-00
M1   1  2  3  3  DMOS L=1U W=1U
RON   5  6  0.5
DON   6  2  D1
ROF   5  7 .1
DOF   2  7  D1
D1CRS 2  8  D2
D2CRS 1  8  D2
CGS   2  3  3.0N
RD    4  1  1.5
DCOS  3  1  D3
RDS   1  3  5.0MEG
LS    3  30 .5N
LD   10  4  1N
LG   20  5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=3.8)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.4 VJ=.6 TT=400N RS=10M) 
.MODEL D3 D (IS=.5F CJO=900P BV=1000 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
********
.SUBCKT DE375-102N12A   10 20 30
*  TERMINALS:  D  G  S
*  1000 Volt  12 Amp  1.07 ohm  N-Channel Power MOSFET
*  REV.A  01-09-02
M1   1  2  3  3  DMOS L=1U W=1U
RON   5  6  0.3
DON   6  2  D1
ROF   5  7 .1
DOF   2  7  D1
D1CRS 2  8  D2
D2CRS 1  8  D2
CGS   2  3  2.7N
RD    4  1  1.1
DCOS  3  1  D3
RDS   1  3  5.0MEG
LS    3  30 .5N
LD   10  4  1N
LG   20  5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=3.8)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.4 VJ=.6 TT=400N RS=10M) 
.MODEL D3 D (IS=.5F CJO=900P BV=1000 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
********
.SUBCKT DE475-501N44A   10 20 30
*  TERMINALS:  D  G  S
*  500 Volt  44 Amp  0.14 ohm  N-Channel Power MOSFET
*  REV.A  01-09-02
M1   1  2  3  3  DMOS L=1U W=1U
RON   5  6  0.3
DON   6  2  D1
ROF   5  7 .1
DOF   2  7  D1
D1CRS 2  8  D2
D2CRS 1  8  D2
CGS   2  3  5.5N
RD    4  1  0.15
DCOS  3  1  D3
RDS   1  3  5.0MEG
LS    3  30 .5N
LD   10  4  1N
LG   20  5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=3.8)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.4 VJ=.6 TT=400N RS=10M) 
.MODEL D3 D (IS=.5F CJO=900P BV=1000 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
**********
*SYM=POWMOSN
.SUBCKT DE475-102N20A   10 20 30
*  TERMINALS:  D  G  S
*  1000 Volt  20 Amp  0.6 ohm  N-Channel Power MOSFET
*  REV.A  10-29-01
M1   1  2  3  3  DMOS L=1U W=1U
RON   5  6  0.5
DON   6  2  D1
ROF   5  7 .1
DOF   2  7  D1
D1CRS 2  8  D2
D2CRS 1  8  D2
CGS   2  3  5.6N
RD    4  1  0.5
DCOS  3  1  D3
RDS   1  3  5.0MEG
LS    3  30 .5N
LD   10  4  1N
LG   20  5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=3.8)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.4 VJ=.6 TT=400N RS=10M) 
.MODEL D3 D (IS=.5F CJO=900P BV=1000 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
********
.SUBCKT DE475-102N21A   10 20 30
*  TERMINALS:  D  G  S
*  1000 Volt  21 Amp  0.52 ohm  N-Channel Power MOSFET
*  REV.A  01-09-02
M1   1  2  3  3  DMOS L=1U W=1U
RON   5  6  0.3
DON   6  2  D1
ROF   5  7 .1
DOF   2  7  D1
D1CRS 2  8  D2
D2CRS 1  8  D2
CGS   2  3  5.5N
RD    4  1  0.5
DCOS  3  1  D3
RDS   1  3  5.0MEG
LS    3  30 .5N
LD   10  4  1N
LG   20  5  1N
.MODEL DMOS NMOS (LEVEL=3 VTO=3.0 KP=3.8)
.MODEL D1 D (IS=.5F CJO=1P BV=100 M=.5 VJ=.6 TT=1N)
.MODEL D2 D (IS=.5F CJO=400P BV=1000 M=.4 VJ=.6 TT=400N RS=10M) 
.MODEL D3 D (IS=.5F CJO=900P BV=1000 M=.3 VJ=.4 TT=400N RS=10M)
.ENDS
;$SpiceType=AMBIGUOUS
